US05538997
B) BOC-L-tert-leucinoyl-L-phenylalaninol
25 g of tert-butyloxycarbonyl-L-tert-leucine are dissolved in 250 ml of dry dimethylformamide, 16.36 g of phenylalaninol, 14.62 g of hydroxybenzotriazole and 24.9 g of N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride are added. The mixture is stirred for one day. The precipitate is filtered off, washed carefully with ethyl acetate and dried in vacuo (m.p. 198°-201°).

reactant | tert-butyloxycarbonyl-L-tert-leucine | 25 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C11H21NO4
reactant | phenylalaninol | 16.36 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | hydroxybenzotriazole | 14.62 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 24.9 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | BOC-L-tert-leucinoyl-L-phenylalaninol | C(=O)(OC(C)(C)C)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)CO | C20H32N2O4
